Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
heavy vaginal bleeding

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ ___ with
a history of a molar pregnancy and AUB in the setting of a
fibroid uterus and adenomysosis with a Mirena IUD in place
(placed in ___, OB/GYN was consulted for evaluation of heavy
vaginal bleeding. 

The patient reports 3 wks of heavy vaginal bleeding saturating
___ pad to a full pad every hour. She states the bleeding began
on ___ which she thinks was the beginning of her menses. 
She states that the bleeding has been overall fairly steady.  
She
also reports lightheadedness/dizziness, palpitations, and mild
nausea no emesis. These symptoms have been increasing in 
severity
until today when she felt like she may vagal when standing which
prompted her presentation to the ED today.  

She otherwise denies any other accompanying symptoms.  She 
denies
any shortness of breath.  She denies any abdominal pain. She
denies any changes in bowel or bladder habits.  She denies any
changes in p.o. intake.  She denies any changes in her weight.   


She reports heavy monthly menses. However since placing the
Mirena IUD her cycles are typically now only 5 days with 3 days
of heavy bleeding.  This cycle has been substantially longer. 
She denies any significant GYN cancer history with the exception
of ovarian cancer in her paternal grandmother.

She was last seen in clinic in ___. Visit notable for the
following: 
- Mirena IUD placed
- Endometrial biopsy: proliferative endometrium 
- Negative Pap ___
- PUS ___: Enlarged uterus without focal mass.  Myometrial
appearance suggestive of  adenomyosis. Malpositioned IUD. The 
IUD
lies transversely in the left fundal cavity. Nonvisualization of
the right ovary. Normal left ovary. 

ED course notable for the following:
VS: mild tachycardia
Labs: Hgb 4.3
Imaging: [ ] PUS ordered, to be done

On my arrival the patient reports slow oozing that has decreased
in intensity since this morning. Otherwise ROS is as stated
above.

ROS: 10 point review of systems is otherwise negative except as
mentioned above

 
Past Medical History:
PMH: anemia, denies cardiopulmonary or renal disease 

PSH: 
- ___ excision of left leg lesion, dermatofibroma
- biopsy of the upper lip, dermal nevus
- ___ cholecystectomy
- D&C for molar pregnancy x 2 (received chemotherapy)
- HSC, D&C, I&D and marsupialization of Bartholin's gland on the
R, I&D of the R vaginal sidewall

OBHx: 
- Menarche at 11
- LMP ___ 
- SVD x 2, term 
- h/o molar pregnancy s/p D&C
- h/o genital warts

GYNHx: 
- h/o fibroids
- h/o adenomyosis
- h/o AUB
- D&C x 3 
- h/o genital warts

 
Social History:
___
Family History:
FH: 
- denies FH of bleeding, clotting disorders
- Paternal grandmother: Advanced ovarian cancer diagnosed in her
___
- denies other GYN malignancy including breast cancer
- denies h/o colon cancer 

 
Physical Exam:
 Gen: NAD, resting comfortably in hospital bed. 
 CV: RRR
 Pulm: CTAB
 Abd: nondistended, positive bowel sounds, nontender to
palpation, no rebound/guarding
 GU: pad with some spotting 
 Ext: BLE nontender, nonedematous 

 
Pertinent Results:
___ 11:35AM BLOOD WBC-6.8 RBC-2.09* Hgb-4.3* Hct-15.1* 
MCV-72* MCH-20.6* MCHC-28.5* RDW-18.2* RDWSD-48.6* Plt ___
___ 03:15PM BLOOD WBC-6.8 RBC-2.47* Hgb-5.6* Hct-18.4* 
MCV-75* MCH-22.7* MCHC-30.4* RDW-18.8* RDWSD-51.9* Plt ___
___ 01:30AM BLOOD WBC-7.4 RBC-2.62* Hgb-6.1* Hct-19.8* 
MCV-76* MCH-23.3* MCHC-30.8* RDW-18.0* RDWSD-49.9* Plt ___
___ 03:50PM BLOOD WBC-7.1 RBC-3.55* Hgb-8.8* Hct-28.0* 
MCV-79* MCH-24.8* MCHC-31.4* RDW-17.3* RDWSD-49.5* Plt ___
___ 11:35AM BLOOD Neuts-82.4* Lymphs-11.0* Monos-5.6 
Eos-0.0* Baso-0.4 NRBC-0.3* Im ___ AbsNeut-5.61 
AbsLymp-0.75* AbsMono-0.38 AbsEos-0.00* AbsBaso-0.03
___ 01:23PM BLOOD ___ PTT-UNABLE TO  ___
___ 11:35AM BLOOD Glucose-119* UreaN-10 Creat-0.7 Na-140 
K-4.0 Cl-106 HCO3-20* AnGap-14
___ 03:50PM BLOOD Glucose-103* UreaN-8 Creat-0.8 Na-145 
K-4.2 Cl-110* HCO3-22 AnGap-13
___ 01:30AM BLOOD ALT-7 AST-7
___ 03:50PM BLOOD Calcium-8.5 Phos-3.4 Mg-2.1
___ 01:30AM BLOOD TSH-2.3
___ 01:30AM BLOOD HCG-<5
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after being admitted for severe anemia due to abnormal 
uterine bleeding. She was transfused 4 units of packed red blood 
cells for a hematocrit of 15, and improved to 28.0 on her 
post-transfusion HCt. She was started on Provera for treatment 
of her bleeding, which decreased to minimal spotting. 

By hospital day 2, she was tolerating a regular diet, voiding 
spontaneously, ambulating independently, and pain was controlled 
with oral medications. She was then discharged home in stable 
condition with outpatient follow-up scheduled.

 
Medications on Admission:
MEDS: none

 
Discharge Medications:
1.  MedroxyPROGESTERone Acetate 10 mg PO BID 
RX *medroxyprogesterone 10 mg 1 tablet(s) by mouth every 12 
hours Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abnormal uterine bleeding
severe anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for severe anemia 
and vaginal bleeding. You have recovered well and the team 
believes you are ready to be discharged home. Please call Dr. 
___ office with any questions or concerns. Please 
follow the instructions below.

General instructions:
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___